US06794403B2
Step a) 7-Bromo-5-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1,3-benzoxazole
The title compound was prepared in substantially the same manner as described in Example 24, Route a, Step a, from 7-bromo-5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole, and tert-butyl(chloro)dimethylsilane. The desired product was obtained as a white solid, m.p. 90-91° C.; MS m/e 534 (M+H)+.

reactant | 7-bromo-5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole | BrC1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)OC)OC | C15H12BrNO3
reactant | tert-butyl(chloro)dimethylsilane | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
product | 7-Bromo-5-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1,3-benzoxazole | BrC1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C25H36BrNO3Si2
